US04857527
A mixture of dimethyl (α-amino-3-nitrobenzylidene)malonate (120 g) and potassium hydroxide in a mixture of methanol (1.2 l) and water(120 ml) was refluxed for 8 hours. The reaction mixture was concentrated under reduced pressure to a volume of 200 ml. The resulting crystals were collected by filtration and recrystallized from methanol to give methyl 3-amino-3-(3-nitrophenyl)acrylate (50.2 g).

reactant | dimethyl (α-amino-3-nitrobenzylidene)malonate | 120 g | NC(C1=CC(=CC=C1)[N+](=O)[O-])=C(C(=O)OC)C(=O)OC | C12H12N2O6
reactant | potassium hydroxide | [OH-].[K+]
solvent | methanol | 1.2 l | CO | CH4O
solvent | water | 120 ml | O | H2O
product | methyl 3-amino-3-(3-nitrophenyl)acrylate | 50.2 g | NC(=CC(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-] | C10H10N2O4
